US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-N-ethyl-N-thiazol-2-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid with ethyl-thiazol-2-ylmethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=C2C=CC=NC2=CC1)CC(=O)O | C21H22N2O4S
reactant | ethyl-thiazol-2-ylmethyl-amine | C(C)NCC=1SC=CN1 | C6H10N2S
product | 2-[(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-N-ethyl-N-thiazol-2-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC=1SC=CN1)CC)C=1C=C2C=CC=NC2=CC1 | C27H30N4O3S2
